US07932262B2
Step 3. 4-(7-Hydroxy-6-((trimethylsilyl)ethynyl)quinazolin-2-ylamino)-N-isopropylbenzamide
To a 0.09M mixture of 4-(6-bromo-7-hydroxyquinazolin-2-ylamino)-N-isopropylbenzamide (0.17 mM), triethylamine (0.5 ml), Pd(dppf)2Cl2CH2Cl2 (0.1 eq), Copper(I) iodide (0.1 eq), in DMF was added trimethylsilylacetylene (10 eq). The suspension was microwaved at 120° C. for 20 min. Reaction mixture was diluted with ethyl acetate and was washed with water, brine, dried and concentrated to give crude product. ES/MS m/z 419 (MH+).

reactant | 4-(6-bromo-7-hydroxyquinazolin-2-ylamino)-N-isopropylbenzamide | 0.17 mM | BrC=1C=C2C=NC(=NC2=CC1O)NC1=CC=C(C(=O)NC(C)C)C=C1 | C18H17BrN4O2
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilylacetylene | 10 eq | C[Si](C)(C)C#C | C5H10Si
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Copper(I) iodide | 0.1 eq | [Cu]I
product | 4-(7-Hydroxy-6-((trimethylsilyl)ethynyl)quinazolin-2-ylamino)-N-isopropylbenzamide | OC1=C(C=C2C=NC(=NC2=C1)NC1=CC=C(C(=O)NC(C)C)C=C1)C#C[Si](C)(C)C | C23H26N4O2Si
